* TB2: Multi-Code Transfer Function — 13 Input Voltages
* Vin = {0.0, 0.1, 0.2, 0.3, 0.4, 0.5, 0.6, 0.7, 0.8, 0.9, 1.0, 1.1, 1.2}V
*
* Verify: codes monotonically decreasing, each within +/-5 LSB of ideal
* Ideal code = round((Vref - Vin) / Vref * 256)
*
* Timing: 13 conversions x 100us = 1300us = 1.3ms
* Input steps between conversions during idle/sample phase

.include sky130_pdk_fixup.spice
.lib sky130_v3.lib.spice tt

.include v3_cap_dac.spice
.include v3_comparator.spice
.include v3_sar_logic.spice
.include v3_sar_adc.spice

* Supply and reference
VDD vdd 0 1.8
VSS vss 0 0
Vref vref 0 1.2

* Input: step through 13 voltages, changing during sample phase of each conversion
* Each conversion takes ~100us (10 clocks x 10us)
* Convert goes HIGH at 15us, first valid at ~105us
* Change Vin during the idle gap between valid and next sample
Vin vin 0 PWL(
+ 0      0.0
+ 104u   0.0
+ 105u   0.1
+ 204u   0.1
+ 205u   0.2
+ 304u   0.2
+ 305u   0.3
+ 404u   0.3
+ 405u   0.4
+ 504u   0.4
+ 505u   0.5
+ 604u   0.5
+ 605u   0.6
+ 704u   0.6
+ 705u   0.7
+ 804u   0.7
+ 805u   0.8
+ 904u   0.8
+ 905u   0.9
+ 1004u  0.9
+ 1005u  1.0
+ 1104u  1.0
+ 1105u  1.1
+ 1204u  1.1
+ 1205u  1.2
+ 1400u  1.2)

* Clock: 100kHz
Vclk clk 0 PULSE(0 1.8 5u 10n 10n 5u 10u)

* Convert: HIGH continuously for back-to-back conversions
Vconv convert 0 PWL(0 0 14.9u 0 15u 1.8)

* Sleep: always awake
Vslp sleep_n 0 1.8

* ADC instance
Xadc vin vref clk convert sleep_n
+ d7 d6 d5 d4 d3 d2 d1 d0 valid
+ vdd vss v3_sar_adc

.tran 100n 1400u

* Measure all 13 conversion codes
.meas tran v1_b7 FIND v(d7) WHEN v(valid)=0.9 RISE=1
.meas tran v1_b6 FIND v(d6) WHEN v(valid)=0.9 RISE=1
.meas tran v1_b5 FIND v(d5) WHEN v(valid)=0.9 RISE=1
.meas tran v1_b4 FIND v(d4) WHEN v(valid)=0.9 RISE=1
.meas tran v1_b3 FIND v(d3) WHEN v(valid)=0.9 RISE=1
.meas tran v1_b2 FIND v(d2) WHEN v(valid)=0.9 RISE=1
.meas tran v1_b1 FIND v(d1) WHEN v(valid)=0.9 RISE=1
.meas tran v1_b0 FIND v(d0) WHEN v(valid)=0.9 RISE=1

.meas tran v2_b7 FIND v(d7) WHEN v(valid)=0.9 RISE=2
.meas tran v2_b6 FIND v(d6) WHEN v(valid)=0.9 RISE=2
.meas tran v2_b5 FIND v(d5) WHEN v(valid)=0.9 RISE=2
.meas tran v2_b4 FIND v(d4) WHEN v(valid)=0.9 RISE=2
.meas tran v2_b3 FIND v(d3) WHEN v(valid)=0.9 RISE=2
.meas tran v2_b2 FIND v(d2) WHEN v(valid)=0.9 RISE=2
.meas tran v2_b1 FIND v(d1) WHEN v(valid)=0.9 RISE=2
.meas tran v2_b0 FIND v(d0) WHEN v(valid)=0.9 RISE=2

.meas tran v3_b7 FIND v(d7) WHEN v(valid)=0.9 RISE=3
.meas tran v3_b6 FIND v(d6) WHEN v(valid)=0.9 RISE=3
.meas tran v3_b5 FIND v(d5) WHEN v(valid)=0.9 RISE=3
.meas tran v3_b4 FIND v(d4) WHEN v(valid)=0.9 RISE=3
.meas tran v3_b3 FIND v(d3) WHEN v(valid)=0.9 RISE=3
.meas tran v3_b2 FIND v(d2) WHEN v(valid)=0.9 RISE=3
.meas tran v3_b1 FIND v(d1) WHEN v(valid)=0.9 RISE=3
.meas tran v3_b0 FIND v(d0) WHEN v(valid)=0.9 RISE=3

.meas tran v4_b7 FIND v(d7) WHEN v(valid)=0.9 RISE=4
.meas tran v4_b6 FIND v(d6) WHEN v(valid)=0.9 RISE=4
.meas tran v4_b5 FIND v(d5) WHEN v(valid)=0.9 RISE=4
.meas tran v4_b4 FIND v(d4) WHEN v(valid)=0.9 RISE=4
.meas tran v4_b3 FIND v(d3) WHEN v(valid)=0.9 RISE=4
.meas tran v4_b2 FIND v(d2) WHEN v(valid)=0.9 RISE=4
.meas tran v4_b1 FIND v(d1) WHEN v(valid)=0.9 RISE=4
.meas tran v4_b0 FIND v(d0) WHEN v(valid)=0.9 RISE=4

.meas tran v5_b7 FIND v(d7) WHEN v(valid)=0.9 RISE=5
.meas tran v5_b6 FIND v(d6) WHEN v(valid)=0.9 RISE=5
.meas tran v5_b5 FIND v(d5) WHEN v(valid)=0.9 RISE=5
.meas tran v5_b4 FIND v(d4) WHEN v(valid)=0.9 RISE=5
.meas tran v5_b3 FIND v(d3) WHEN v(valid)=0.9 RISE=5
.meas tran v5_b2 FIND v(d2) WHEN v(valid)=0.9 RISE=5
.meas tran v5_b1 FIND v(d1) WHEN v(valid)=0.9 RISE=5
.meas tran v5_b0 FIND v(d0) WHEN v(valid)=0.9 RISE=5

.meas tran v6_b7 FIND v(d7) WHEN v(valid)=0.9 RISE=6
.meas tran v6_b6 FIND v(d6) WHEN v(valid)=0.9 RISE=6
.meas tran v6_b5 FIND v(d5) WHEN v(valid)=0.9 RISE=6
.meas tran v6_b4 FIND v(d4) WHEN v(valid)=0.9 RISE=6
.meas tran v6_b3 FIND v(d3) WHEN v(valid)=0.9 RISE=6
.meas tran v6_b2 FIND v(d2) WHEN v(valid)=0.9 RISE=6
.meas tran v6_b1 FIND v(d1) WHEN v(valid)=0.9 RISE=6
.meas tran v6_b0 FIND v(d0) WHEN v(valid)=0.9 RISE=6

.meas tran v7_b7 FIND v(d7) WHEN v(valid)=0.9 RISE=7
.meas tran v7_b6 FIND v(d6) WHEN v(valid)=0.9 RISE=7
.meas tran v7_b5 FIND v(d5) WHEN v(valid)=0.9 RISE=7
.meas tran v7_b4 FIND v(d4) WHEN v(valid)=0.9 RISE=7
.meas tran v7_b3 FIND v(d3) WHEN v(valid)=0.9 RISE=7
.meas tran v7_b2 FIND v(d2) WHEN v(valid)=0.9 RISE=7
.meas tran v7_b1 FIND v(d1) WHEN v(valid)=0.9 RISE=7
.meas tran v7_b0 FIND v(d0) WHEN v(valid)=0.9 RISE=7

.meas tran v8_b7 FIND v(d7) WHEN v(valid)=0.9 RISE=8
.meas tran v8_b6 FIND v(d6) WHEN v(valid)=0.9 RISE=8
.meas tran v8_b5 FIND v(d5) WHEN v(valid)=0.9 RISE=8
.meas tran v8_b4 FIND v(d4) WHEN v(valid)=0.9 RISE=8
.meas tran v8_b3 FIND v(d3) WHEN v(valid)=0.9 RISE=8
.meas tran v8_b2 FIND v(d2) WHEN v(valid)=0.9 RISE=8
.meas tran v8_b1 FIND v(d1) WHEN v(valid)=0.9 RISE=8
.meas tran v8_b0 FIND v(d0) WHEN v(valid)=0.9 RISE=8

.meas tran v9_b7 FIND v(d7) WHEN v(valid)=0.9 RISE=9
.meas tran v9_b6 FIND v(d6) WHEN v(valid)=0.9 RISE=9
.meas tran v9_b5 FIND v(d5) WHEN v(valid)=0.9 RISE=9
.meas tran v9_b4 FIND v(d4) WHEN v(valid)=0.9 RISE=9
.meas tran v9_b3 FIND v(d3) WHEN v(valid)=0.9 RISE=9
.meas tran v9_b2 FIND v(d2) WHEN v(valid)=0.9 RISE=9
.meas tran v9_b1 FIND v(d1) WHEN v(valid)=0.9 RISE=9
.meas tran v9_b0 FIND v(d0) WHEN v(valid)=0.9 RISE=9

.meas tran v10_b7 FIND v(d7) WHEN v(valid)=0.9 RISE=10
.meas tran v10_b6 FIND v(d6) WHEN v(valid)=0.9 RISE=10
.meas tran v10_b5 FIND v(d5) WHEN v(valid)=0.9 RISE=10
.meas tran v10_b4 FIND v(d4) WHEN v(valid)=0.9 RISE=10
.meas tran v10_b3 FIND v(d3) WHEN v(valid)=0.9 RISE=10
.meas tran v10_b2 FIND v(d2) WHEN v(valid)=0.9 RISE=10
.meas tran v10_b1 FIND v(d1) WHEN v(valid)=0.9 RISE=10
.meas tran v10_b0 FIND v(d0) WHEN v(valid)=0.9 RISE=10

.meas tran v11_b7 FIND v(d7) WHEN v(valid)=0.9 RISE=11
.meas tran v11_b6 FIND v(d6) WHEN v(valid)=0.9 RISE=11
.meas tran v11_b5 FIND v(d5) WHEN v(valid)=0.9 RISE=11
.meas tran v11_b4 FIND v(d4) WHEN v(valid)=0.9 RISE=11
.meas tran v11_b3 FIND v(d3) WHEN v(valid)=0.9 RISE=11
.meas tran v11_b2 FIND v(d2) WHEN v(valid)=0.9 RISE=11
.meas tran v11_b1 FIND v(d1) WHEN v(valid)=0.9 RISE=11
.meas tran v11_b0 FIND v(d0) WHEN v(valid)=0.9 RISE=11

.meas tran v12_b7 FIND v(d7) WHEN v(valid)=0.9 RISE=12
.meas tran v12_b6 FIND v(d6) WHEN v(valid)=0.9 RISE=12
.meas tran v12_b5 FIND v(d5) WHEN v(valid)=0.9 RISE=12
.meas tran v12_b4 FIND v(d4) WHEN v(valid)=0.9 RISE=12
.meas tran v12_b3 FIND v(d3) WHEN v(valid)=0.9 RISE=12
.meas tran v12_b2 FIND v(d2) WHEN v(valid)=0.9 RISE=12
.meas tran v12_b1 FIND v(d1) WHEN v(valid)=0.9 RISE=12
.meas tran v12_b0 FIND v(d0) WHEN v(valid)=0.9 RISE=12

.meas tran v13_b7 FIND v(d7) WHEN v(valid)=0.9 RISE=13
.meas tran v13_b6 FIND v(d6) WHEN v(valid)=0.9 RISE=13
.meas tran v13_b5 FIND v(d5) WHEN v(valid)=0.9 RISE=13
.meas tran v13_b4 FIND v(d4) WHEN v(valid)=0.9 RISE=13
.meas tran v13_b3 FIND v(d3) WHEN v(valid)=0.9 RISE=13
.meas tran v13_b2 FIND v(d2) WHEN v(valid)=0.9 RISE=13
.meas tran v13_b1 FIND v(d1) WHEN v(valid)=0.9 RISE=13
.meas tran v13_b0 FIND v(d0) WHEN v(valid)=0.9 RISE=13

.control
run

echo "=== TB2: Multi-Code Transfer Function ==="
* Print all 13 codes
let thresh = 0.9
foreach n 1 2 3 4 5 6 7 8 9 10 11 12 13
  echo "Code $n :"
end

wrdata v3_tb2_multi_code.dat v(Xadc.vtop) v(d7) v(d6) v(d5) v(d4) v(d3) v(d2) v(d1) v(d0) v(valid)
.endc

.end
